US08703768B2
Step 4: 6-Chloro-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid (1-methyl-5-methylcarbamoyl-1H-pyrazol-4-yl)-amide
The product was obtained starting from 6-chloro-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid (30 mg, 0.12 mmol) and 4-amino-2-methyl-2H-pyrazole-3-carboxylic acid methylamide (24 mg, 0.15 mmol) according to the method described in example 64, step 6 as yellow solid (29 mg, 62%).

reactant | 6-chloro-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid | 0.12 mmol, 30 mg | ClC1=CC=C(C(=N1)C(=O)O)NC=1C=NC=NC1 | C10H7ClN4O2
reactant | 4-amino-2-methyl-2H-pyrazole-3-carboxylic acid methylamide | 0.15 mmol, 24 mg | CNC(=O)C=1N(N=CC1N)C | C6H10N4O
product | 6-Chloro-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid (1-methyl-5-methylcarbamoyl-1H-pyrazol-4-yl)-amide | CN1N=CC(=C1C(NC)=O)NC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)Cl | C16H15ClN8O2
